US08242104B2
3-Methylbutan-2-one was brominated with bromine in methanol to give 1-bromo-3-methylbutan-2-one which was reacted with 4-methoxybenzylamine and cyclized with sodium cyanate to give 4-isopropyl-1-(4-methoxybenzyl)-1H-imidazol-2(3H)-one.

reactant | 4-methoxybenzylamine | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | sodium cyanate | [O-]C#N.[Na+]
product | 4-isopropyl-1-(4-methoxybenzyl)-1H-imidazol-2(3H)-one | C(C)(C)C=1NC(N(C1)CC1=CC=C(C=C1)OC)=O | C14H18N2O2
